US07396844B1
Synthesis of benzyl 4-[4-[(2S)-3-chloro-2-(t-butoxycarbonylamino)propyl]phenoxy]piperidine-1-carboxylate
5.5 g (11.3 mmol) of benzyl 4-[4-[(2S)-2-(t-butoxycarbonylamino)-3-hydroxypropyl]phenoxy]piperidine-1-carboxylate was dissolved in 60 ml of dichloromethane. 3.2 ml (22.6 mmol) of triethylamine and 1.95 g (17.0 mmol) of methanesulfonyl chloride were added to the solution at 0° C. After stirring for 4 hours, the reaction mixture was treated with dichloromethane as the extractant in an ordinary manner to obtain an oily residue. The residue thus obtained was dissolved in 120 ml of dimethylformamide. 2.57 g (60.6 mmol) of lithium chloride was added to the solution, and they were stirred at 50° C. for 15 hours. After the treatment with ethyl acetate as the extractant in an ordinary manner, the crude product was obtained, which was purified by the silica gel column chromatography to obtain the title compound.

reactant | benzyl 4-[4-[(2S)-2-(t-butoxycarbonylamino)-3-hydroxypropyl]phenoxy]piperidine-1-carboxylate | 11.3 mmol, 5.5 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(OC2CCN(CC2)C(=O)OCC2=CC=CC=C2)C=C1)CO | C27H36N2O6
reactant | triethylamine | 22.6 mmol, 3.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 17.0 mmol, 1.95 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | lithium chloride | 60.6 mmol, 2.57 g | [Cl-].[Li+]
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | benzyl 4-[4-[(2S)-3-chloro-2-(t-butoxycarbonylamino)propyl]phenoxy]piperidine-1-carboxylate | ClC[C@H](CC1=CC=C(OC2CCN(CC2)C(=O)OCC2=CC=CC=C2)C=C1)NC(=O)OC(C)(C)C | C27H35ClN2O5
